US05635537
A solution of methyl 2-(dipropylamino)tetralin-8-carboxylate hydrochloride (1.5 g, 4.6 mmol), sodium hydroxide (736 mg, 18.4 mmol), methanol (25 ml) and water (4 ml) was stirred overnight, The methanol was evaporated. Concentrated hydrochloric acid was added until the pH became about 6. The solution was extracted with chloroform. The organic layer was dried (sodium sulfate) and concentrated to give 1.23 g (97%) of pure 8-carboxy-2-(dipropylamino)tetralin as an oil. The hydrochloride melts at 245°-247° C., which could bse recrystallised from methanol/diethylether.

reactant | methyl 2-(dipropylamino)tetralin-8-carboxylate hydrochloride | 4.6 mmol, 1.5 g | Cl.C(CC)N(C1CC2=C(C=CC=C2CC1)C(=O)OC)CCC
reactant | sodium hydroxide | 18.4 mmol, 736 mg | [OH-].[Na+]
reactant | methanol | 25 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 8-carboxy-2-(dipropylamino)tetralin | 1.23 g, 97% | C(=O)(O)C=1C=CC=C2CCC(CC12)N(CCC)CCC | C17H25NO2
